US05232964
2. Trimethoxysilylpropyltriethylammonium Chloride
A mixture of 60.0 grams of methanol, 60.0 grams of chloropropyltrimethoxysilane and 19.53 grams of triethylamine was prepared. The mixture was heated and allowed to reflux for 96 hours. A pinkish tint was observed. The mixture was vacuum stripped at 80° C. and 29 inches of Hg, for one hour. The mixture became brown in color. Upon cooling, solidified to form a crystal salt. To 8.0 grams of the product was added 2.0 grams of isopropanol wherein the salt dissolved.

reactant | methanol | 60.0 grams | CO | CH4O
reactant | chloropropyltrimethoxysilane | 60.0 grams | ClCCC[Si](OC)(OC)OC | C6H15ClO3Si
reactant | triethylamine | 19.53 grams | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 2.0 grams | C(C)(C)O | C3H8O
product | Trimethoxysilylpropyltriethylammonium Chloride | [Cl-].CO[Si](OC)(OC)CCC[N+](CC)(CC)CC | InChI=1S/C12H30NO3Si.ClH/c1-7-13(8-2,9-3)11-10-12-17(14-4,15-5)16-6;/h7-12H2,1-6H3;1H/q+1;/p-1
